US07919498B2
9-((2-(2-Chlorophenyl)-8-methylquinolin-3-yl)methyl)-9H-purin-6-amine.
A mixture of 3-(bromomethyl)-2-(2-chlorophenyl)-8-methylquinoline (66 mg, 0.19 mmol), {prepared in a similar way as 3-(bromomethyl)-8-methyl-2-o-tolylquinoline, example 9} adenine (39 mg, 0.29 mmol), and cesium carbonate (124 mg, 0.38 mmol) in DMF (0.7 mL) was stirred at rt for 2 h. The crude mixture was evaporated onto silica gel and purified by flash chromatography (Biotage Si 25+M) eluting with MeOH/CH2Cl2 (5% to 10%). The resulting white solid was further purified by HPLC (Berger SFC) eluting with i-PrOH/CO2/DEA to provide a white solid [PI3Kδ IC50=2130 nM]. MS (ESI+) m/z=401.1 (M+1).

reactant | 3-(bromomethyl)-2-(2-chlorophenyl)-8-methylquinoline | 0.19 mmol, 66 mg | BrCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)Cl | C17H13BrClN
reactant | 3-(bromomethyl)-8-methyl-2-o-tolylquinoline | BrCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)C | C18H16BrN
reactant | adenine | 0.29 mmol, 39 mg | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | cesium carbonate | 0.38 mmol, 124 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | 9-((2-(2-Chlorophenyl)-8-methylquinolin-3-yl)methyl)-9H-purin-6-amine | ClC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1CN1C2=NC=NC(=C2N=C1)N)C | C22H17ClN6
